US05441955
9-Chloroindolo[2,1-b]quinazoline-6,12-dione
Using the procedure in Example 12 and substituting isatoic anhydride for 5-chloroisatoic anhydride and 6-chloroisatin for 5-fluoroisatin gave the title compound in 14% yield: mp 300.6°-303.1° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.49 (d, 1H) 8.35 (d, 1H) 7.89 (d, 2H) 7.94 (d, 1H) 7.72-7.82 (m, 1H) 7.55-7.62 (m, 1H); MS (M+CH4CN)+ 324.

reactant | 5-chloroisatoic anhydride | ClC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4ClNO3
reactant | 6-chloroisatin | ClC1=CC=C2C(C(NC2=C1)=O)=O | C8H4ClNO2
reactant | 5-fluoroisatin | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
product | 9-Chloroindolo[2,1-b]quinazoline-6,12-dione | 14% yield | ClC1=CC=C2C(C3=NC4=CC=CC=C4C(N3C2=C1)=O)=O | C15H7ClN2O2
